US07335658B2
SYNTHESIS OF 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (PYRIDIN-2-YL-METHYL)AMIDE
A mixture of 6-[4-(2-Trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid methyl ester (0.099 g, 0.25 mmol), pyridin-2-yl-methylamine (0.7 mL) and sodium cyanide (0.245 g, 0.5 mmol) was stirred at ambient temperature overnight and purified by column chromatography to yield the title compound in 48% yield (0.057 g). m.p. 179-181° C. 1H NMR (300 MHz, CDCl3) δ 8.81, 8.59, 8.12, 7.78-7.50, 7.37, 7.21-7.13, 6.93, 4.83, 4.17-3.66, 3.37. 13C NMR (75 MHz, CDCl3) δ 167.6, 163.3, 160.0, 156.5, 149.0, 145.3, 137.0, 134.2, 132.4, 129.5, 127.2, 122.5, 121.9, 112.3, 46.4, 44.6, 44.4, 41.3. MS (ES+) m/z 471 (M+1).

reactant | 6-[4-(2-Trifluoromethylbenzoyl)piperazin-1-yl]pyridazine-3-carboxylic acid methyl ester | 0.25 mmol, 0.099 g | COC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C18H17F3N4O3
reactant | pyridin-2-yl-methylamine | 0.7 mL | N1=C(C=CC=C1)NC | C6H8N2
reactant | sodium cyanide | 0.5 mmol, 0.245 g | [C-]#N.[Na+]
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (PYRIDIN-2-YL-METHYL)AMIDE | 48% yield | N1=C(C=CC=C1)CNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H21F3N6O2
